US07351857B2
To a suspension of 60% NaH (8 g; 0.240 mol) in DMF (250 mL), cooled to 0° C., is added 5-methoxyindan-2-ylamine hydrochloride (40.0 g; 0.2 mol) and the suspension stirred for 1 h at RT. Phthalic anhydride (30 g; 0.2 mol) is added in 1-portion and the suspension stirred for an additional 1-1.5 h at RT followed by stirring at 120° C. for 96 h. The reaction is cooled and diluted with EtOAc. The organic phase is washed with H2O, the resultant precipitate filtered, washed with EtOAc, MeOH and dried under vacuo to afford 25.2 g (43%) of 2-(5-methoxyindan-2-yl)isoindole-1,3-dione as a white solid. The organic phase is washed with H2O, evaporated under reduced pressure and the solid is triturated with MeOH, filtered, and dried to afford an additional 19.7 (33%) g of 2-(5-methoxyindan-2-yl)isoindole-1,3-dione as a white solid.

reactant | NaH | 0.240 mol, 8 g | [H-].[Na+]
reactant | 5-methoxyindan-2-ylamine hydrochloride | 0.2 mol, 40.0 g | Cl.COC=1C=C2CC(CC2=CC1)N
reactant | Phthalic anhydride | 0.2 mol, 30 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(5-methoxyindan-2-yl)isoindole-1,3-dione | 25.2 g, 43% | COC=1C=C2CC(CC2=CC1)N1C(C2=CC=CC=C2C1=O)=O | C18H15NO3
